US03954776
A mixture of 4.5 g of 1,2-epoxy-3-[2-(2-methoxyethoxy)phenoxy]-propane, 2.4 g of 2,6-dimethylpiperidine, 30 ml of methanol and 1 drop of water is refluxed for 8 hours. The methanol is then removed, and the residue is cooled. The precipitated colorless crystals are collected by filtration, and washed with petroleum benzine to give 5.2 g of 1-(2,6-dimethylpiperidino)-3-[2-(2-methoxyethoxy)phenoxy]-2-propanol, melting at 92°-94°C.

reactant | 1,2-epoxy-3-[2-(2-methoxyethoxy)phenoxy]-propane | 4.5 g | O1CC1COC1=C(C=CC=C1)OCCOC | C12H16O4
reactant | 2,6-dimethylpiperidine | 2.4 g | CC1NC(CCC1)C | C7H15N
catalyst | water | 1 drop | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 1-(2,6-dimethylpiperidino)-3-[2-(2-methoxyethoxy)phenoxy]-2-propanol | 5.2 g | CC1N(C(CCC1)C)CC(COC1=C(C=CC=C1)OCCOC)O | C19H31NO4
